US07723349B2
To a solution of tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (0.36 g), 4-bromo-2-isopropylphenol (0.3 g) in DMF (8.0 mL) was added potassium carbonate (0.5 g) and PdCl2dppf (60 mg) under nitrogen. The mixture was stirred at 80° C. for 16 h. The reaction was cooled down, diluted with ethyl acetate, washed with water, brine, dried and concentrated. The product tert-butyl 4-(4-hydroxy-3-isopropylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate (0.12 g) was obtained by Combiflash.

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.36 g | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | 4-bromo-2-isopropylphenol | 0.3 g | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(4-hydroxy-3-isopropylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.12 g | OC1=C(C=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)C(C)C | C19H27NO3
